US05663162
A 1.540 g portion of 2-[(N-tert-butoxycarbonyl-L-seryl)amino]methylthiazole and 15 ml of trifluoroacetic acid were added, and the mixture was stirred for 30 minutes. The reaction mixture was concentrated to dryness under reduced pressure. To the solution of (L-seryl)aminomethylthiazole trifluoroacetatate salt thus obtained in 50 ml of methylene chloride were added with stirring 2.73 g of triethylamine and 3.84 g of ethyl trifluoroacetate. The mixture was stirred at room temperature for 3 hours, concentrated under reduced pressure and subjected to flash column chromatography on silica gel (eluted with ethyl acetate) to give 1.519 g of 2-[(N-trifluoroacetyl-L-seryl)amino]methylthiazole. Quantitative yield. NMR (CDCl3) δ: 1.5-1.75 (1H, br), 3.69 (1H, dd, J=11.5 Hz, 6.7 Hz), 4.18 (1H, dd, J=11.5 Hz, 3.5 Hz), 4.58 (1H, td, J=11.5 Hz, 3.5 Hz), 4.75 (1H, dd, J=16.7 Hz, 5.5 Hz), 4.96 (1H, dd, J=16.7 Hz, 6.9 Hz), 7.01-7.07 (1H, br), 7.31 (1H, d, J=3.3 Hz), 7.60-7.70 (1H, br), 7.68 (1H, d, J=3.3 Hz).

reactant | 2-[(N-tert-butoxycarbonyl-L-seryl)amino]methylthiazole | C(C)(C)(C)OC(=O)N[C@@H](CO)C(=O)NCC=1SC=CN1 | C12H19N3O4S
reactant | trifluoroacetic acid | 15 ml | FC(C(=O)O)(F)F | C2HF3O2
reactant | ethyl trifluoroacetate | 3.84 g | FC(C(=O)OCC)(F)F | C4H5F3O2
solvent | triethylamine | 2.73 g | C(C)N(CC)CC | C6H15N
product | 2-[(N-trifluoroacetyl-L-seryl)amino]methylthiazole | 1.519 g, Quantitative yield | FC(C(=O)N[C@@H](CO)C(=O)NCC=1SC=CN1)(F)F | C9H10F3N3O3S
